* D:\vlsi advanced\1_Differential_amplifier.asc
M1 vd1 vg1 vs1 0 NMOS l=1u w=60u
M2 vd2 vg2 vs1 0 NMOS l=1u w=60u
M3 vs1 vg3 0 0 NMOS l=1u w=10u
V1 vg1 0 SINE(0.6 1m 1k 0 0 180)
V2 vg3 0 0.5
V3 vg2 0 SINE(0.6 1m 1k)
V4 N001 0 1.2
R1 N001 vd1 68k
R2 N001 vd2 68k
M4 N003 N005 N007 0 NMOS l=1u w=60u
M5 N004 N006 N007 0 NMOS l=1u w=60u
M6 N007 N008 0 0 NMOS l=1u w=10u
V5 N005 0 SINE(0.6 1m 1k 0 0 180) AC 0.6 0
V6 N008 0 0.5
V7 N006 0 SINE(0.6 1m 1k) AC 0.6 180
V8 N002 0 1.2
R3 N002 N003 68k
R4 N002 N004 68k
C1 0 N003 1µ
C2 0 N004 1µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\_\Documents\LTspiceXVII\lib\cmp\standard.mos
* Differential NMOS Amplifier with current sink
.MODEL NMOS NMOS(KP=200u,VTO=0.4)
* .tran 0 10m 0 10
* AC Analysis
.meas vgs1 PARAM v(vg1)-v(vs1)
.meas vds1 PARAM v(vd1)-v(vs1)
.meas vgs_greaterThan_VTH_1 PARAM vgs1-0.4
.meas vds_greaterThan_Vgs-Vth_1 PARAM vds1-(vgs1-0.4)
.meas vgs2 PARAM v(vg2)-v(vs1)
.meas vds2 PARAM v(vd2)-v(vs1)
.meas vgs_greaterThan_VTH_2 PARAM vgs2-0.4
.meas vds_greaterThan_Vgs-Vth_2 PARAM vds2-(vgs2-0.4)
.meas vgs3 PARAM v(vg3)
.meas vds3 PARAM v(vs1)
.meas vgs_greaterThan_VTH_3 PARAM vgs3-0.4
.meas vds_greaterThan_Vgs-Vth_3 PARAM vds3-(vgs3-0.4)
* .ac dec 10 1 10G
.op
* .temp -40 27 125
.backanno
.end
